US06239286B1
2-butyl-1,3-diaza-spiro [4.4] non-1-en-4-one monohydrochloride
To the solution made of 11.0 g (0.1 mol) of 1-amino-1-cyanocyclopentane and 12.2 g (0.12 mol) of triethylamine in 80 ml of toluene, 13.0 g (0.1 mol) of valeroyl chloride was added at 30° C. After the addition the mixture was stirred at 60° C. for 1 hour, then it was cooled and washed three times with water. The phases were separated and to the organic phase at first 25 g of 20 w/v % sodium hydroxide solution and 7 g of tetrabutyl ammonium hydrogen sulfate, then at 10-15° C. 40 g of 30-35 w/v % hydrogen peroxide solution were added. The reaction mixture was heated to 25-30° C. and was stirred at that temperature for 2 hours. The mixture was then heated to 60° C. and the phases were separated again. To the toluene phase the solution of 3 g of sodium in 30 ml methanol was added and the mixture was heated to reflux temperature to distille out the solvent and the volatile components. The concentration was continued until the mixture was stirrable. To the resulting product 100 ml of acetone was added, the mixture was filtered and the pH of the filtrate was adjusted to 1-2 with conc. hydrochloric acid. The precipitated product was filtered off and dried to obtain 14 g of the title compound, yield 60.8%.

reactant | 1-amino-1-cyanocyclopentane | 0.1 mol, 11.0 g | NC1(CCCC1)C#N | C6H10N2
reactant | triethylamine | 0.12 mol, 12.2 g | C(C)N(CC)CC | C6H15N
reactant | valeroyl chloride | 0.1 mol, 13.0 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-butyl-1,3-diaza-spiro [4.4] non-1-en-4-one monohydrochloride | 14 g, yield 60.8% | Cl.C(CCC)C1=NC2(C(N1)=O)CCCC2 | InChI=1S/C11H18N2O.ClH/c1-2-3-6-9-12-10(14)11(13-9)7-4-5-8-11;/h2-8H2,1H3,(H,12,13,14);1H
